US07951810B2
Step a: (1S)-N-methylindan-1-amine
To a solution of (S)-(+)-1-aminoindan (176 mg, 1.29 mmol) in THF (10.0 mL) was added Et3N (0.200 mL, 1.43 mmol) followed by di-tert-butyldicarbonate (286 mg, 1.31 mmol). The mixture was stirred under an atmosphere of nitrogen for 3 days, concentrated, diluted with DCM (100 mL), and washed with 0.1 N aq hydrochloric acid (50.0 mL) and aq NaCl. The organic layer was dried (MgSO4), filtered and concentrated. The tan solid was taken up in tetrahydrofuran (10.0 mL) and to this was added with a 1.00 M solution of lithium aluminum hydride (1.0 M in THF, 5.80 mL). The mixture was heated at reflux for 6 hours, quenched with water (0.300 mL), 15% aq NaOH solution (0.300 mL) and water (0.900 mL). This was stirred for 10 minutes, filtered through celite, diluted with EtOAc (100 mL), dried (MgSO4), filtered and concentrated. The residue was purified via flash chromatography (0 to 100% EtOAc/hexanes to 10% MeOH/DCM) to afford the title compound as a black solid (146 mg, 77%).

reactant | (S)-(+)-1-aminoindan | 1.29 mmol, 176 mg | N[C@H]1CCC2=CC=CC=C12 | C9H11N
reactant | Et3N | 1.43 mmol, 0.200 mL | CCN(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 1.31 mmol, 286 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
product | (1S)-N-methylindan-1-amine | 146 mg, 77% | CN[C@H]1CCC2=CC=CC=C12 | C10H13N
